US07786083B2
H-Ser-OMe, 3.5 g (22.6 mmol), was suspended in (40 mL) of chloroform. Under ice cooling, DIEA (8.7 mL, 49.7 mmol) and Pbf-Cl (5.86 g, 20.3 mmol) were sequentially added and stirred overnight while gradually elevating to room temperature. After the reaction was stopped by adding satd. citric acid aqueous solution, chloroform was distilled off under reduced pressure and the whole was extracted with AcOEt. The organic layer was washed sequentially with satd. citric acid aqueous solution, satd. sodium bicarbonate aqueous solution and satd. sodium chloride aqueous solution, and then dried over anhydrous MgSO4. After concentration under reduced pressure, flash chromatography was performed using AcOEt:n-hexane=1:1 to give Pbf-Ser-OMe (6.94 g, 82.7%).

reactant | H-Ser-OMe | N[C@@H](CO)C(=O)OC | C4H9NO3
reactant | DIEA | 49.7 mmol, 8.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Pbf-Cl | 20.3 mmol, 5.86 g | S(=O)(=O)(C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)Cl | C13H17ClO3S
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | Pbf-Ser-OMe | 6.94 g, 82.7% | N([C@@H](CO)C(=O)OC)S(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C | C17H25NO6S
